US04254131
2-[(4-t-Butyl-1-piperidyl)methyl]propenenitrile
Cyanoacetic acid (1.75 g., 0.02 mole) was dissolved in 10 ml. of dioxane. In a five minute period 4-t-butylpiperidine (2.8 g., 0.02 mole) was added, the temperature rose to 25° C. from 15° C. obtained by prior cooling with an ice bath. The mixture which solidified became fluid upon the addition of 37% aqueous formaldehyde (3.6 g., 0.04 mole), the temperature rose to 30° C. and carbon dioxide evolution began. The mixture was stirred an additional 12 hours, was taken up in ether and the organic phase separated and washed with water. The dried ether solution was stripped of solvent to leave a solid residue product, 3.7 g. of practically analytical purity.

reactant | Cyanoacetic acid | 0.02 mole, 1.75 g | C(#N)CC(=O)O | C3H3NO2
reactant | 4-t-butylpiperidine | 0.02 mole, 2.8 g | C(C)(C)(C)C1CCNCC1 | C9H19N
reactant | formaldehyde | 0.04 mole, 3.6 g | C=O | CH2O
reactant | carbon dioxide | C(=O)=O | CO2
solvent | ether | CCOCC | C4H10O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-[(4-t-Butyl-1-piperidyl)methyl]propenenitrile | C(C)(C)(C)C1CCN(CC1)CC(C#N)=C | C13H22N2
